US06936602B1
One droplet of DMF was added to a solution of 1-(2-methoxybenzyl)-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (340 mg) in tetrahydrofuran (10 ml). Then, thionyl chloride (267 mg) was added thereto at 0° C., the temperature was returned to room temperature, and the mixture was stirred for 1 hour under nitrogen atmosphere. The solvent and excess thionyl chloride were evaporated under reduced pressure, and the resulting residue was suspended in tetrahydrofuran (30 ml), which was added to a solution of 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline (197 mg) and triethylamine (906 mg) in tetrahydrofuran (10 ml) at 0° C. The mixture was stirred at room temperature for 1 hour under nitrogen atmosphere, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was separated and purified with silica gel column chromatography (methanol:ethyl acetate=1:8), which was recrystallized from hexane-ethyl acetate to give 1-(2-methoxybenzyl)-N-[4-[[N-methyl N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxamide (337 mg) as yellow crystals.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-(2-methoxybenzyl)-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 340 mg | COC1=C(CN2CCC(=CC3=C2C=CC(=C3)C3=CC=C(C=C3)OCCC)C(=O)O)C=CC=C1 | C28H29NO4
reactant | thionyl chloride | 267 mg | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2-methoxybenzyl)-N-[4-[[N-methyl N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxamide | 337 mg | COC1=C(CN2CCC(=CC3=C2C=CC(=C3)C3=CC=C(C=C3)OCCC)C(=O)NC3=CC=C(C=C3)CN(C3CCOCC3)C)C=CC=C1 | C41H47N3O4
